US08304419B2
Step C: 3-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2-carboxamide
HATU (0.061 g, 0.16 mmole) was added to a DMF (2 ml) solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.16 mmole) and 3-chloro-1H-pyrrole-2-carboxylic acid (0.023 g, 0.16 mmole) in DMF. DIPEA (0.021 g, 0.16 mmole) was added and the solution stirred for 2 h. The mixture was partitioned between EtOAc and water. The organic layer was separated and washed with 15% NaHCO3 and dried over MgSO4 and the EtOAc evaporated. The residue was purified on silica with EtOAc and Hexanes to afford the title compound (0.0187 g, 26%) as a white solid. 1H NMR (400 MHz, Acetone-d6): δ ppm 10.93 (br. s., 1H), 7.62-7.67 (m, 1H), 7.56-7.62 (m, 1H), 7.37-7.48 (m, 4H), 7.02 (t, 1H), 6.23 (t, 1H), 4.72 (d, 2H). MS: m/z 438.1 (M+1).

reactant | HATU | 0.16 mmole, 0.061 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.16 mmole, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 3-chloro-1H-pyrrole-2-carboxylic acid | 0.16 mmole, 0.023 g | ClC1=C(NC=C1)C(=O)O | C5H4ClNO2
reactant | DIPEA | 0.16 mmole, 0.021 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2-carboxamide | 0.0187 g, 26% | ClC1=C(NC=C1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C19H11Cl3FN3O2
